US06479487B1
1-(3-Ethoxypropyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-3-ethoxypropane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-3-ethoxypropane | ClCCCOCC | C5H11ClO
product | 1-(3-Ethoxypropyl)-4-piperidone | C(C)OCCCN1CCC(CC1)=O | C10H19NO2
